US07662825B2
N-(3-Methoxy-5-methyl-2-pyrazinyl)-2-fluorobenzenesulphonamide
Prepared by the method of Example 1 using 3-methoxy-5-methyl-2-pyrazinamine and 2-fluorobenzenesulphonyl chloride.

reactant | 3-methoxy-5-methyl-2-pyrazinamine | COC=1C(=NC=C(N1)C)N | C6H9N3O
reactant | 2-fluorobenzenesulphonyl chloride | FC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClFO2S
product | N-(3-Methoxy-5-methyl-2-pyrazinyl)-2-fluorobenzenesulphonamide | COC=1C(=NC=C(N1)C)NS(=O)(=O)C1=C(C=CC=C1)F | C12H12FN3O3S
